data/mechanisms/records/IMS8-EQ8.77.json
{"mechanism_id": "IMS8-EQ8.77", "species": [{"species_id": "ethyl_methyl_sulfide_molecular_ion", "mapped_smiles": "[CH3:1][CH2:2][S+:3][CH3:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "protonated_thioacetaldehyde_ion", "mapped_smiles": "[CH3:1][CH:2]=[SH+:3]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:4]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ethyl_methyl_sulfide_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["protonated_thioacetaldehyde_ion", "methyl_radical"]}], "steps": [{"step_id": "step_radical_site_displacement", "from_state": "state_precursor", "to_state": "state_products", "step_class": "radical_site_displacement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_displacement_8_77", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_radical_site_displacement", "support_type": "textbook_proposed", "locator": {"page": 195, "equation": "8.77", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements (thioether isomerization by a 'displacement reaction', cf. Section 8.11)"}, "confidence": 0.85, "curator_note": "The page draws R-CH(H)-S(+.)-R': the sulfur carries the printed '+' and a separate '.' (n-ionized thioether), the hydrogen that migrates is written out as an explicit H letter above the carbon that is DIRECTLY BONDED to sulfur, and the products are printed as R-CH=SH(+) -- a '+' only, no dot -- plus .R'. ARCS ACTUALLY DRAWN: FOUR. (i) a fishhook from the C-H bond sweeping up-right, head between H and S; (ii) a fishhook starting at the '.' of the '+.' on S, arcing up and to the LEFT, head pointing back toward the same H...S region -- (i) and (ii) converge where the new S-H bond forms; (iii) a second fishhook from the same C-H bond pointing DOWN-right onto the C-S bond (the forming C=S pi bond); (iv) a large fishhook that starts under the S-R' bond, sweeps below the sulfur and ends with a barb pointing up-left at the C-S bond (the same forming pi bond). Book draws 4 arc(s); move <2> is drawn (arc iv), move <3> is an implicit homolysis hook required for electron balance (not drawn on the page: the second electron of the cleaved S-R' bond, which leaves as the .R' the page simply writes as a product), and move <1> is a heavy-atom bookkeeping COMPOSITE of the three drawn arcs (i)+(ii)+(iii) that involve the migrating hydrogen: RDKit folds a mapped explicit [H] back into implicit valence (verified: '[CH3:1][CH:2]([H:5])[S+:3][CH3:4]' loses atom 5 on parsing), so neither the broken C-H bond nor the formed S-H bond exists in the mapped topology and the pair of electrons that ends up in the S-H bond cancels out; what remains observable is exactly 'one non-bonding electron leaves sulfur and one electron enters the new C=S pi bond', which is what move <1> states. INSTANTIATION (convention F): R = CH3 and R' = CH3, i.e. ethyl methyl sulfide, so the drawn generic scheme becomes CH3CH2-S(+.)-CH3 -> CH3-CH=SH+ + .CH3. NO m/z AND NO INTENSITY ARE PRINTED for this equation: detected=false, peak status 'inferred', no relative_intensity; m/z 61.0106 is computed for this instantiation, not measured. Note that the isomerization does NOT change the mass -- the direct S-CH3 alpha cleavage of the same ion gives CH3CH2-S+ at the same nominal and exact mass (C2H5S+), which is precisely the point the surrounding text makes: the rearrangement 'compromis[es] its characterization of the original molecular structure' (hydrogen_shift is therefore 0). TEXT-vs-FIGURE DISCREPANCY, disclosed rather than smoothed over: the running text writes the product as 'RCH=SH(+.)' (with a dot), but the equation itself prints only '+' on the sulfur, and electron balance demands the even-electron cation, because the co-product .R' printed alongside it is an odd-electron radical; the record follows the figure."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization, threshold (low-internal-energy) conditions -- the page speaks of 'threshold formation of the more-stable RCH=SH+ isomer'; no electron energy is printed", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 76.0341, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_protonated_thioacetaldehyde", "species_id": "protonated_thioacetaldehyde_ion", "step_id": "step_radical_site_displacement", "observed_mz": 61.0106, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
